US09108966B2
BCl3 (1 M in DCM, 3.0 mL, 3.0 mmol) was added dropwise to a solution of (2S,5R)-6-(benzyloxy)-2-(1,2,4-thiadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (190 mg, 0.60 mmol) in dry DCM (20 mL) at −78° C. The mixture was stirred at 0° C. for 6 hrs., then, MeOH (3 mL) was added slowly at −78° C. The solvents were evaporated under vacuum to give (2S,5R)-6-hydroxy-2-(1,2,4-thiadiazol-5-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (110 mg, 80%) as a yellow solid, which was directly used in the next step. ESI-MS (EI−, m/z): 227.1 [M−H]−.

reactant | BCl3 | 3.0 mmol, 1 M, 3.0 mL | B(Cl)(Cl)Cl | BCl3
reactant | (2S,5R)-6-(benzyloxy)-2-(1,2,4-thiadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 0.60 mmol, 190 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC=NS2 | C15H16N4O2S
reactant | MeOH | 3 mL | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-6-hydroxy-2-(1,2,4-thiadiazol-5-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 110 mg, 80% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC=NS2 | C8H10N4O2S
